US09422281B2
A solution of (S)-N-(5-bromo-2-(1-hydroxypropan-2-ylamino)pyridin-3-yl)-4-methylbenzenesulfonamide (6.39 g, 15.96 mmol) and triphenylphosphine (5.02 g, 19.16 mmol) in THF (160 ml) was heated to 60° C. whereupon diisopropyl azodicarboxylate (3.72 mL, 19.16 mmol) was added dropwise to the warm solution over a 5 minute period. Heating was discontinued after 5 minutes, and after cooling briefly, the solution was concentrated under reduced pressure. The residue was dissolved in dichloromethane and purified by column chromatography on silica gel (eluting with 6:1 dichloromethane-ethyl acetate followed by 5:1 dichloromethane-ethyl acetate) to afford (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[3,2-b]pyrazine a tan, waxy solid (3.12 g) which was used without further purification. MS (ESI, pos. ion) m/z 382, 384 [M+1]+.

reactant | (S)-N-(5-bromo-2-(1-hydroxypropan-2-ylamino)pyridin-3-yl)-4-methylbenzenesulfonamide | 15.96 mmol, 6.39 g | BrC=1C=C(C(=NC1)N[C@H](CO)C)NS(=O)(=O)C1=CC=C(C=C1)C | C15H18BrN3O3S
reactant | triphenylphosphine | 19.16 mmol, 5.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 19.16 mmol, 3.72 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[3,2-b]pyrazine | BrC1=CC=2N(C[C@@H](NC2N=C1)C)S(=O)(=O)C1=CC=C(C)C=C1 | C15H16BrN3O2S
